US04137315
A mixture (150.4 cc) of equal volumes of about 50% by weight nitric acid (density 1.33) and about 97% by weight nitric acid (density 1.52) is added dropwise to a suspension, stirred and maintained between 5° and 10° C., of 4-ethoxy-7-oxo-7H-indolizino[7,6,5-de]isoquinoline (30 g) in nitric acid (density 1.33; l34 cc). The addition takes 15 minutes. The mixture is stirred for a further 15 minutes, whilst allowing the red solution to return to ambient temperature. This solution is poured into water (1.7 liter) and the orange solid which precipitates is filtered off. The residue is washed with water (5 × 50 cc) and then dried under reduced pressure (1 mm Hg) at 50° C. Crude 4-ethoxy-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline (31 g) is thus obtained. After recrystallisation from acetonitrile, the pure product melts at 192° C.

reactant | 4-ethoxy-7-oxo-7H-indolizino[7,6,5-de]isoquinoline | 30 g | C(C)OC1=NC=C2C=3C(=CC=CC13)N1C=CC=C1C2=O | C16H12N2O2
reactant | water | 1.7 liter | O | H2O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4-ethoxy-10-nitro-7-oxo-7H-indolizino[7,6,5-de]isoquinoline | 31 g | C(C)OC1=NC=C2C=3C(=CC=CC13)N1C(=CC=C1C2=O)[N+](=O)[O-] | C16H11N3O4
